US05998433
b) Synthesis of N,N-dimethyl-[6-(4-phenylbutoxycarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-(4-phenylbutoxycarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.068 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. After this reaction mixture was concentrated, diethyl ether was added; the resulting solid was filtered and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[6-(4-phenylbutoxycarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.068 g | CN(C)CC1=CC2=C(CN(CC2)C(=O)OCCCCC2=CC=CC=C2)O1 | C21H28N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N,N-dimethyl-[6-(4-phenylbutoxycarbonyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(=O)OCCCCC2=CC=CC=C2)O1 | InChI=1S/C21H28N2O3.ClH/c1-22(2)15-19-14-18-11-12-23(16-20(18)26-19)21(24)25-13-7-6-10-17-8-4-3-5-9-17;/h3-5,8-9,14H,6-7,10-13,15-16H2,1-2H3;1H
